US08664217B2
Sodium hydride (60% in oil, 138 mg, 3.5 mmol) was suspended in DMF (10 ml). A DMF solution (5 ml) of 6H-furo[2,3-c]pyridin-7-one (310 mg, 2.3 mmol) was added thereto at 0° C., and stirring was conducted at the same temperature for 1 hour. A DMF solution (5 ml) of 2-(2-iodoethoxy)tetrahydropyran (1175 mg, 4.6 mmol) was added thereto, and stirring was conducted at room temperature overnight. Water was added to the reaction mixture and extraction with ethyl acetate was performed. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1→1:1). The purified product was concentrated under reduced pressure to thereby obtain 450 mg (yield: 74%) of 6-[2-(tetrahydropyran-2-yloxy)ethyl]-6H-furo[2,3-c]pyridin-7-one as a yellow oil.

reactant | Sodium hydride | 3.5 mmol, 138 mg | [H-].[Na+]
reactant | 6H-furo[2,3-c]pyridin-7-one | 2.3 mmol, 310 mg | O1C=CC2=C1C(NC=C2)=O | C7H5NO2
reactant | 2-(2-iodoethoxy)tetrahydropyran | 4.6 mmol, 1175 mg | ICCOC1OCCCC1 | C7H13IO2
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[2-(tetrahydropyran-2-yloxy)ethyl]-6H-furo[2,3-c]pyridin-7-one | 450 mg, yield: 74% | O1C(CCCC1)OCCN1C(C2=C(C=C1)C=CO2)=O | C14H17NO4
